US07329680B2
A solution of 4-(4′-bromobiphen-4-yloxy)-N-tert-butoxycarbonyl-proline methyl ester (476 mg, 1 mmol), 4-dibenzofuranylboronic acid (222 mg, 1.05 mmol) and Pd(PPh3)4 (52 mg, 5% mol) in toluene (10 mL) and ethanol (2.5 mL) was heated until the solution became clear and subsequently treated with 2 M K2CO3 (1.5 mL). The reaction mixture was heated to reflux for 2 h, cooled to room temperature, diluted with ethyl acetate (100 mL). The organic layer was washed successively with 2% aq HCl and sat. aq NaCl, dried over MgSO4, filtered and concentrated. Purification by flash column chromatography (2-10% ethyl acetate in heptane) gave 4-(4′-dibenzofuran-4-yl-bipheny-4-yloxy)-N-tert-butoxycarbonyl-proline methyl ester (423 mg, 75%) as a foam. 1H NMR (CDCl3), δ 7.97 (m, 4H), 7.71 (dd, J=1, 8 Hz, 2H), 7.62 (m, 4H), 7.45 (m, 3H), 6.90 (dd, J=1, 9 Hz, 2H), 4.96 (m, 1H), 4.52 (m, 1H), 3.78 (m, 5H), 2.52 (m, 2H), 1.46 (s, 9H). LCMS 464 (M+−100).

reactant | 4-(4′-bromobiphen-4-yloxy)-N-tert-butoxycarbonyl-proline methyl ester | 1 mmol, 476 mg | COC([C@H]1N(CC(C1)OC1=CC=C(C=C1)C1=CC=C(C=C1)Br)C(=O)OC(C)(C)C)=O | C23H26BrNO5
reactant | 4-dibenzofuranylboronic acid | 1.05 mmol, 222 mg | C1=CC=C(C=2OC3=C(C21)C=CC=C3)B(O)O | C12H9BO3
reactant | K2CO3 | 2 M, 1.5 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 2.5 mL | C(C)O | C2H6O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd(PPh3)4 | 52 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(4′-dibenzofuran-4-yl-bipheny-4-yloxy)-N-tert-butoxycarbonyl-proline methyl ester | 423 mg, 75% | COC([C@H]1N(CC(C1)OC1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC=CC2=C1OC1=C2C=CC=C1)C(=O)OC(C)(C)C)=O | C35H33NO6
